US06211170B1
To a solution of N-Boc-3-chloropropylamine (10.0 g, 51.8 mmol) in THF was added sodium hydride (1.87 g, 78 mmol). After 20 min, benzyl bromide (9.24 mL, 78 mmol) was added and the reaction mixture was heated at reflux for 16 h. After cooling, the reaction mixture was diluted with Et2O (150 mL) and H2O (50 mL), the layers were separated and the aqueous layer was extracted twice with Et2O. The combined organic phases were washed with H2O and brine, dried (MgSO4), filtered and concentrated. The resulting yellow oil was purified by flash chromatography (SiO2, 10% EtOAc-hexane) to give N-Boc-N-benzyl-3-chloropropylamine (1.97 g, 13% yield) as a pale yellow oil.

reactant | N-Boc-3-chloropropylamine | 51.8 mmol, 10.0 g | C(=O)(OC(C)(C)C)NCCCCl | C8H16ClNO2
reactant | sodium hydride | 78 mmol, 1.87 g | [H-].[Na+]
reactant | benzyl bromide | 78 mmol, 9.24 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | C1CCOC1 | C4H8O
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | H2O | 50 mL | O | H2O
product | N-Boc-N-benzyl-3-chloropropylamine | 1.97 g, 13% yield | C(=O)(OC(C)(C)C)N(CC1=CC=CC=C1)CCCCl | C15H22ClNO2
